US08008303B2
3-Bromo-4-methoxy-N-[4-(4-methyl-piperazin-1-yl)-phenyl]-benzamide
A mixture of 3-bromo-4-methoxy-benzoic acid (500 mg), 4-(4-methyl-piperazin-1-yl)-phenylamine (413 mg), EDAC (828 mg), HOBT (534 mg) and N-methylmorpholine (712 μl) in DMF (3 ml) was stirred at room temperature for 18 h. The mixture was then diluted with water (30 ml) and the resulting solid collected by filtration and dried (840 mg)

reactant | 3-bromo-4-methoxy-benzoic acid | 500 mg | BrC=1C=C(C(=O)O)C=CC1OC | C8H7BrO3
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 413 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | EDAC | 828 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 534 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 712 μl | CN1CCOCC1 | C5H11NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | 3-Bromo-4-methoxy-N-[4-(4-methyl-piperazin-1-yl)-phenyl]-benzamide | BrC=1C=C(C(=O)NC2=CC=C(C=C2)N2CCN(CC2)C)C=CC1OC | C19H22BrN3O2
